US09315542B2
2-(4-((((4S,7S,10S,13S)-10-Benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetic acid (9)
Referring to FIG. 37, benzyl 2-(4-((((4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate (110 mg, 0.1 mmol) was dissolved in dioxane (10 mL) and Pd/C (50 mg) was added. The mixture was stirred for 3 h under H2 atmosphere (15 psi). The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give compound (100 mg, quantitative); 1H NMR (DMSO-d6, 300 MHz): δ 8.12-8.02 (m, 3H), 7.99-7.89 (m, 1H), 7.32-7.02 (m, 10H), 6.88 (s, 2H), 6.05 (s, 1H), 5.11-5.02 (m, 1H), 5.75 (s, 2H), 4.61-4.22 (m, 4H), 3.65 (m, 4H), 2.95 (m, 2H), 2.78-2.70 (m, 1H), 2.55 (s, 6H), 2.45 (m, 4H), 1.94-1.55 (m, 4H), 0.92-0.74 (m, 12H).

reactant | benzyl 2-(4-((((4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate | 0.1 mmol, 110 mg | C(C1=CC=CC=C1)[C@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)C(N[C@H](C([C@](COS(=O)(=O)C1=C(C=C(OCC(=O)OCC2=CC=CC=C2)C=C1C)C)(C)O)=O)CC(C)C)=O | C57H75N5O13S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-(4-((((4S,7S,10S,13S)-10-Benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetic acid | C(C1=CC=CC=C1)[C@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)C(N[C@H](C(C(COS(=O)(=O)C1=C(C=C(OCC(=O)O)C=C1C)C)(C)O)=O)CC(C)C)=O | C50H69N5O13S
